US05118865
g. (+)-(3R,7S)-7-ethyl-4,8,8-trimethyl-1-oxaspiro[2.5]oct-4-ene
Prepared according to the method described, in a vessel equipped with a CO2 condenser and kept under N2, starting from 6.8 g (0.054 mmol) of (CH3)2SO4, 3.3 g of (CH3)2S, 6 ml of THF (tetrahydrofuran), 8 ml of DMSO and 1.7 g (0.054 mol) of 75% NaH in mineral oil. (+)-(5S)-5-Ethyl-2,6,6-trimethyl-2-cyclohexen-1-one (6.6 g, 0.033 mol, [α]20D =+82.4°) in 2 ml of DMSO was added at ~6°. The mixture was stirred over the week-end and then 21 ml of ethyl acetate were added, followed by 21 ml of water added dropwise. After the usual treatment and distillation on residues, a mixture containing 54% of the desired product was obtained. The desired epoxide was separated from the mixture by further distillation.

reactant | (CH3)2SO4 | 0.054 mmol, 6.8 g | COS(=O)(=O)OC | C2H6O4S
reactant | (CH3)2S | 3.3 g | S(C)C | C2H6S
reactant | NaH | 0.054 mol, 1.7 g | [H-].[Na+]
reactant | (+)-(5S)-5-Ethyl-2,6,6-trimethyl-2-cyclohexen-1-one | 0.033 mol, 6.6 g | C(C)[C@H]1CC=C(C(C1(C)C)=O)C | C11H18O
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
solvent | water | 21 ml | O | H2O
solvent | ethyl acetate | 21 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 6 ml | O1CCCC1 | C4H8O
product | (+)-(3R,7S)-7-ethyl-4,8,8-trimethyl-1-oxaspiro[2.5]oct-4-ene | C(C)[C@H]1CC=C([C@]2(CO2)C1(C)C)C | C12H20O
